US09024027B2
To a stirred solution of tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (prepared in an analogous manner as previously described in Example 34, Scheme 34, Steps 1, 2, 3) (400 mg, 1.129 mmol) in acetonitrile (10 ml), potassium carbonate (312 mg, 2.257 mmol), and 1-(2-chloroethyl)piperidine hydrochloride (249 mg, 1.354 mmol) were added. The reaction was heated at 90° C. under microwave irradiation for 2 hours. The solid inorganic salts were filtered off and the filtrate was evaporated to dryness. The resulting crude was crystallized from EtOH affording tert-butyl 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetate (450 mg, 0.967 mmol, 86% yield, MS/ESI+ 465.9 [MH]+).

reactant | tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
reactant | potassium carbonate | 2.257 mmol, 312 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 1.354 mmol, 249 mg | Cl.ClCCN1CCCCC1
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-butyl 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetate | 0.967 mmol, 450 mg, 86% yield | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CCN1CCCCC1)=O)CC(=O)OC(C)(C)C | C22H31N3O6S
